US05753652
c) 1-[2(R)-Hydroxy-3(S)-amino-4-phenyl-butyl]-1-[cyclohexylmethyl]-2-[tert-butoxycarbonyl]-hydrazine
Under a nitrogen atmosphere, 326 mg (0.669 mmol) of 1-[2(R)-hydroxy-3(S)-(trifluoroacetylamino)-4-phenyl-butyl]-1-[cyclohexylmethyl]-2-[tert-butoxycarbonyl]-hydrazine dissolved in 52 ml of MeOH are heated to 70° C., 17 ml of 1M aqueous K2CO3 solution are added dropwise and the mixture is stirred for 16 h at 70° C. The reaction mixture is concentrated by evaporation and the residue is partitioned between 3 portions of methylene chloride, 2 portions of water and brine. Concentration by evaporation of the organic phases which have been dried with Na2SO4 yields the title compound, which is used directly in the next step: 1H-NMR (200 MHz, CD3OD): 1.42 (s, 9 H, Boc), 0.8-2.1 (m, 11 H, cyclohexyl), 2.4-3.0 (m, 6H), 3.1 (m, 1H), 3.54 (m, 1H), 7.28 (m, 5H).

reactant | 1-[2(R)-hydroxy-3(S)-(trifluoroacetylamino)-4-phenyl-butyl]-1-[cyclohexylmethyl]-2-[tert-butoxycarbonyl]-hydrazine | 0.669 mmol, 326 mg | O[C@H](CN(NC(=O)OC(C)(C)C)CC1CCCCC1)[C@H](CC1=CC=CC=C1)NC(C(F)(F)F)=O | C24H36F3N3O4
reactant | K2CO3 | 1M, 17 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 52 ml | CO | CH4O
product | 1-[2(R)-Hydroxy-3(S)-amino-4-phenyl-butyl]-1-[cyclohexylmethyl]-2-[tert-butoxycarbonyl]-hydrazine | O[C@H](CN(NC(=O)OC(C)(C)C)CC1CCCCC1)[C@H](CC1=CC=CC=C1)N | C22H37N3O3
